US07807684B2
Step 7: tert-butyl-3-{[4-chloro-3-(3-chloro-5-cyanophenoxy)phenyl]ethynyl}-1H-pyrazolo[3,4-]pyridine-1-carboxylate (49-8)
A solution of 147 mg (0.51 mmol) of 3-chloro-5-(2-chloro-5-ethynylphenoxy)benzonitrile, 166 mg (0.48 mmol) of tert-butyl 3-iodo-1H-pyrazolo[3,4-b]pyridine-1-carboxylate, 17 mg (0.03 mmol) of bis(triphenylphosphino)palladium (II) chloride, and 9.00 mg (0.05 mmol) of CuI in 2.5 mL DMF/5 mL triethylamine under nitrogen was stirred at room temperature for one hour. The reaction mixture was concentrated in vacuo to a dark oil. The crude oil was purified by flash chromatography over silica gel with 2.5:1 hexanes/EtOAc to provide the desired product as a yellow oil/foam. M+=405 (M−100, loss of Boc). 1H NMR (CDCl3): 1.75 (s, 9H), 7.10 (m, 1H), 7.19 (m, 1H), 7.36 (m, 1H), 7.39 (m, 2H), 7.50 (dd, 1H), 7.56 (dd, 1H), 8.21 (dd, 1H), 8.82 (dd, 1H).

reactant | 3-chloro-5-(2-chloro-5-ethynylphenoxy)benzonitrile | 0.51 mmol, 147 mg | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC(=C1)C#C)Cl | C15H7Cl2NO
reactant | tert-butyl 3-iodo-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 0.48 mmol, 166 mg | IC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C11H12IN3O2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphino)palladium (II) chloride | 0.03 mmol, 17 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
catalyst | CuI | 0.05 mmol, 9.00 mg | [Cu]I
product | tert-butyl-3-{[4-chloro-3-(3-chloro-5-cyanophenoxy)phenyl]ethynyl}-1H-pyrazolo[3,4-]pyridine-1-carboxylate | C(C)(C)(C)OC(=O)N1N=C(C2=C1C=CC=N2)C#CC2=CC(=C(C=C2)Cl)OC2=CC(=CC(=C2)C#N)Cl | C26H18Cl2N4O3
